US06294566B1
4-[1-(1H-Imidazol-4-yl)-ethyl]-quinoline.
To oxalyl chloride (0.85 μl, 0.976 mmol) in 5 ml of anhydrous dichloromethane at −78° C., dimethylsulfoxide (0.14 ml, 1.95 mmol) was added over a five minute period. After stirring for 5 minutes at the same temperature, 4-[1-(4,5-Dihydro-1H-imidazol-4-yl)-ethyl]quinoline (0.200 g, 0.888 mmol) was added slowly and the reaction mixture was stirred for a further 20 minutes at −78° C. Triethylamine (0.62 ml, 4.44 mmol) was added and the reaction mixture was stirred for 5 minutes at −78° C. and then 20 minutes at room temperature. The reaction mixture was concentrated under reduced pressure and partitioned between EtOAc (10 ml) and water (5 ml). The organic layer was dried over sodium sulfate, filtered, concentrated and column purified [EtOAc:MeOH:Methanol NH3 (1.0 M); 3.5:1:0.5) to give 0.100 g (51%) of the product as a syrup.

reactant | oxalyl chloride | 0.976 mmol, 0.85 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 1.95 mmol, 0.14 ml | CS(=O)C | C2H6OS
reactant | 4-[1-(4,5-Dihydro-1H-imidazol-4-yl)-ethyl]quinoline | 0.888 mmol, 0.200 g | N1C=NC(C1)C(C)C1=CC=NC2=CC=CC=C12 | C14H15N3
reactant | Triethylamine | 4.44 mmol, 0.62 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[1-(1H-Imidazol-4-yl)-ethyl]-quinoline | 0.100 g, 51% | N1C=NC(=C1)C(C)C1=CC=NC2=CC=CC=C12 | C14H13N3
